US04826869
To a stirred suspension of 4 g (130 mmol) of lithium aluminum hydride in 300 ml of anhydrous tetrahydrofuran was added dropwise, at room temperature, a solution of 27 g (160 mmol) of 1-butyl-2-acetylpyrrole in 200 ml of anhydrous tetrahydrofuran. The reaction mixture was refluxed for 30 minutes, cooled to 0° C. and the excess reagent destroyed by carefully adding ethyl acetate, saturated sodium sulfate solution and solid anhydrous sodium sulfate. The insoluble material was separated by filtration and the filtrate evaporated under reduced pressure, to produce 1-butyl-2-α-hydroxyethylpyrrole. This unstable crude alcohol 26 g (150 mmol) was dissolved in 250 ml of methanol, cooled to -10° C. and thereafter 101 ml of glacial acetic acid and 22.8 g (360 mmol) of sodium cyanoborohydride were added thereto. The reaction mixture was allowed to attain room temperature and stirred for 1 hour. It was then poured into 600 ml of saturated sodium carbonate solution and the product extracted with ethyl acetate (5×300 ml). The combined extracts were washed with water (2×300 ml), dried and evaporated in vacuo. Purification of the residue by column chromatography on 500 g of silica gel, using hexane-acetone (90:10) as eluant, provided 20 g (81%) of the title compound, 1-butyl-2-ethylpyrrole, as an oil.

reactant | lithium aluminum hydride | 130 mmol, 4 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-butyl-2-acetylpyrrole | 160 mmol, 27 g | C(CCC)N1C(=CC=C1)C(C)=O | C10H15NO
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 1-butyl-2-α-hydroxyethylpyrrole | C(CCC)N1C(=CC=C1)C(C)O | C10H17NO
